US09108956B2
Step 9. Synthesis of -(6-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-3-yl)acetic acid sodium salt
To a mixture of methyl 2-(6-(4′-(5-cyclobutyl-1,3,4-oxadiazol-2-ylamino)biphenyl-4-yl)tetrahydro-2H-pyran-3-yl)acetate (43 mg, 0.10 mmol) in THF (0.5 ml) and MeOH (0.5 ml) was added a solution of 1N NaOH (0.29 ml, 0.29 mmol). The mixture was stirred at room temperature for overnight. Afterward, the reaction mixture was concentrated to dryness afford a white solid. The solid was taken up in water to form a slurry and was subsequently filtered. The filtercake was washed with water, dried to afford the title compound (36 mg, 81% yield) as a sodium salt. The ratio of cis to trans isomer was determined to be ˜1:1.2 by NMR studies. HR/MS [M+H]+: found 434.2071, calc. 434.2080. RT: 1.72 (Condition L). HR/MS [M+H]+: found 434.2077, calc. 434.2080. RT: 1.75 (Condition L).

reactant | methyl 2-(6-(4′-(5-cyclobutyl-1,3,4-oxadiazol-2-ylamino)biphenyl-4-yl)tetrahydro-2H-pyran-3-yl)acetate | 0.10 mmol, 43 mg | C1(CCC1)C1=NN=C(O1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(CO1)CC(=O)OC | C26H29N3O4
reactant | NaOH | 0.29 mmol, 1N, 0.29 ml | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | water | O | H2O
product | (6-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-3-yl)acetic acid sodium salt | 36 mg, 81% yield | [Na+].C1(CCC1)C1=NN=C(O1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(CO1)CC(=O)[O-] | InChI=1S/C25H27N3O4.Na/c29-23(30)14-16-4-13-22(31-15-16)19-7-5-17(6-8-19)18-9-11-21(12-10-18)26-25-28-27-24(32-25)20-2-1-3-20;/h5-12,16,20,22H,1-4,13-15H2,(H,26,28)(H,29,30);/q;+1/p-1
